US07125896B2
Prepared from 1-methyl-2-chloromethylpiperidine and 4-hydroxyphenylacetone by the method of Example 1 to give a mixture (50:50) of the above product and 4-([1-methyl-piperidin-2-yl]methoxy)phenyl acetone.

reactant | 1-methyl-2-chloromethylpiperidine | CN1C(CCCC1)CCl | C7H14ClN
reactant | 4-hydroxyphenylacetone | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | 4-([1-methyl-piperidin-2-yl]methoxy)phenyl acetone | CN1C(CCCC1)COC1=CC=C(C=C1)CC(C)=O | C16H23NO2
